US05079247
N-[1-[[3-(Trifluoromethyl)phenyl]methyl]benz[cd]indol 2(1H)-ylidene]-1H-imidazole-1-propanamine
A mixture of 2.5 g of 1-[[3-(trifluoromethyl) phenyl]methyl]benz[cd]indole-2(1H)-thione (Ch), 0.95 g of 1H-imidazole-1-propanamine, 200 ml ethyl alcohol and 2.3 g of mercuric acetate is reacted as described in Example 3, giving 2.1 g of the desired product, mp. 108°-109° C.

reactant | 1-[[3-(trifluoromethyl) phenyl]methyl]benz[cd]indole-2(1H)-thione | 2.5 g | FC(C=1C=C(C=CC1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=S)(F)F | C19H12F3NS
reactant | 1H-imidazole-1-propanamine | 0.95 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | N-[1-[[3-(Trifluoromethyl)phenyl]methyl]benz[cd]indol 2(1H)-ylidene]-1H-imidazole-1-propanamine | 2.1 g | FC(C=1C=C(C=CC1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=NCCCN2C=NC=C2)(F)F | C25H21F3N4
